US06169107A
A mixture of 1.50 g (8.00 mmols) of 4-chloro-3-methyl-2-nitrophenol, 1.50 g (8.80 mmols) of benzyl bromide, 2.43 g (17.6 mmols) of potassium carbonate and 70 ml of acetone was refluxed for 2 hours. Thereafter insoluble matters were filtered off and the filtrate was concentrated under reduced pressure. The residue was isolated and purified by silica gel column chromatography to give 2.22 g (>99%) of 3-benzyloxy-6-chloro-2-nitrotoluene.

reactant | 4-chloro-3-methyl-2-nitrophenol | 8.00 mmols, 1.50 g | ClC1=C(C(=C(C=C1)O)[N+](=O)[O-])C | C7H6ClNO3
reactant | benzyl bromide | 8.80 mmols, 1.50 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 17.6 mmols, 2.43 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 70 ml | CC(=O)C | C3H6O
product | 3-benzyloxy-6-chloro-2-nitrotoluene | 2.22 g, >99% | C(C1=CC=CC=C1)OC=1C(=C(C(=CC1)Cl)C)[N+](=O)[O-] | C14H12ClNO3
